US04686234
A solution of 500 mgs of mycophenolic acid in 10 ml of dichloromethane containing 0.5 ml of thionyl chloride and 0.05 ml of N.N-dimethylformamide was maintained at 25° C. for 3 hours. The volatile components were then distilled off under vacuum to obtain crude (E)-[1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl]-4-methyl-4-hexenoyl chloride.

reactant | mycophenolic acid | 500 mgs | CC1=C2C(=C(C(=C1OC)C/C=C(\C)/CCC(=O)O)O)C(=O)OC2 | C17H20O6
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N.N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-[1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl]-4-methyl-4-hexenoyl chloride | OC1=C2C(OCC2=C(C(=C1C(C(=O)Cl)C\C(=C\C)\C)OC)C)=O | C17H19ClO5
